US06114532
c. 4-chloro-3-nitro-N-methyl-N-(naphthalen-1-yl)-benzamide
3.2 g (0.01 mol) of 4-chloro-3-nitro-N-(naphthalen-1-yl)-benzamide and 1.1 g (0.01 mol) of potassium-tert.-butoxide are dissolved in 50 ml dimethylsulphoxide and stirred for 30 minutes at ambient temperature. Then 1 ml methyl iodide is added thereto and the mixture is stirred for a further 3 hours at ambient temperature. The solution is poured onto saturated sodium chloride solution and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulphate and concentrated by evaporation. The residue is chromatographed on silica gel and eluted with methylene chloride.

reactant | 4-chloro-3-nitro-N-(naphthalen-1-yl)-benzamide | 0.01 mol, 3.2 g | ClC1=C(C=C(C(=O)NC2=CC=CC3=CC=CC=C23)C=C1)[N+](=O)[O-] | C17H11ClN2O3
reactant | potassium tert.-butoxide | 0.01 mol, 1.1 g | [K].CC(C)([O-])C
reactant | methyl iodide | 1 ml | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-chloro-3-nitro-N-methyl-N-(naphthalen-1-yl)-benzamide | ClC1=C(C=C(C(=O)N(C2=CC=CC3=CC=CC=C23)C)C=C1)[N+](=O)[O-] | C18H13ClN2O3
